US05173210
Stage 1: Preparation of 1,4-bis(2-formylphenyl)-1,4-dioxabutane
Salicylaldehyde (97.6 g) was dissolved in 80 cm3 of ethanol. An aqueous solution of sodium hydroxide (32 g) in 1 dm3 of water was added to give a yellow solution. 1,2-dibromoethane (73.6 g) was then added followed by sufficient ethanol to give an homogeneous solution. The mixture was stirred under nitrogen and heated to reflux temperature and maintained at reflux temperature under nitrogen for 44 hours. The mixture was allowed to cool and a solid precipitated. The solid was filtered off and dried. The solid was mixed with hexane at a temperature of about 65° C., sufficient chloroform was added to dissolve the solid and the mixture was allowed to cool and a solid crystallised. The solid had a melting point of 128°-130° C., corresponding closely to the reported melting point of 129° C. for 1,4-bis(2-formylphenyl)-1,4-dioxabutane.

reactant | Salicylaldehyde | 97.6 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | sodium hydroxide | 32 g | [OH-].[Na+]
reactant | 1,2-dibromoethane | 73.6 g | BrCCBr | C2H4Br2
reactant | ethanol | 80 cm3 | C(C)O | C2H6O
solvent | water | 1 dm3 | O | H2O
product | 1,4-bis(2-formylphenyl)-1,4-dioxabutane | C(=O)C1=C(C=CC=C1)OCCOC1=C(C=CC=C1)C=O | C16H14O4
